US07465731B2
To a solution of ethyl (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)acrylate (366 mg) in MeOH (2 mL) and dioxane (2 mL) was added 1N NaOH aq solution (2.0 mL), and the mixture was stirred at ambient temperature for 3 hours. The pH value of the mixture was adjusted to 7 with 1N HCl, and the solvent was removed in vacuo. Obtained solid was suspended in toluene and the residual water was geotropically removed to give (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)acrylic acid and the crude product was used in next reaction without further purification.

reactant | ethyl (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)acrylate | 366 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)/C=C/C(=O)OCC)C | C22H27N3O2
reactant | NaOH | 1N, 2.0 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-methyl-3-pyridyl)acrylic acid | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)/C=C/C(=O)O)C | C20H23N3O2
